Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
CC:  ___, altered mental status, hypotension, sepsis
 
Major Surgical or Invasive Procedure:
___ tracheostomy
___ endoscopic gastrostomy tube

 
History of Present Illness:
.
PCP:  Dr. ___ ___, ___ ED 
___.
.
HPI:  ___ with PMH of tobacco use and glaucoma (no regular 
medical care with last PCP ___ ___ years ago) who developed 
fever and body aches ___ and progressively worsening 
confusion since then presented to her PCP's office today with 
complaints of generalized malaise and feeling unwell.  She 
specifically complained of inability to sleep and requested 
sleep medication however also endorsed generalized weakness and 
perhaps some dizziness.  Her PCP referred her to ___ 
___ ED given her symptoms and she reportedly looked 
"overall unwell".  She (and family) report that her symptoms 
began on ___ at which time she developed "body aches" and 
subjective fevers/chills.  She also had a very mild dry cough.  
Her daughter reports progressive confusion mainly over the past 
few days.  She has also had poor PO intake (food and fluid) ___ 
poor appetite.  She denies sore throat, runny nose, 
N/V/diarrhea/abdominal pain, dysuria/hematuria.  She further 
denies night sweats, signifiant weight loss.  She also denies 
HA, changes ___ vision, neck stiffness.
.
At the OSH ED, noted peripheral blood WBC >60K with a reported 
"left shift".  RUL infiltrate was noted on CXR and she received 
1 dose levofloxacin IV.  ABG initially showed pCO2=59 however 
she became increasingly lethargic and repeat ABG showed pCO2=78. 
 She was simultaneously noted to be hypoxemic (paO2 not clear), 
but SaO2 70% on NRB prior to intubation.  She was intubated and 
was noted to be hypotensive with nadir 65/40 (? post sedation 
vs. before) and was started on dopamine via peripheral IV 
initially at 20mcg/kg/min.  Dopamine was decreased to 
5mcg/kg/min prior to transfer with maintenance of SBPs ___.  She 
became tachycardic to the 140s on dopamine so was changed to 
levophed without tachycardia and maintenance of MAPS 
approximately 50-60.
.
Transferred to MICU for presumed sepsis.
.
ROS:  As above, also denies rashes.  + DOE when walking up 
stairs, no PND, orthopnea (per family history).  No 
melena/hematochezia. 

Medications:
Glaucoma eye gtts
.
Allergies: NKDA

 
Past Medical History:
Past Medical History:
Tobacco use, ? COPD
Glaucoma
 
Social History:
___
Family History:
Family History: non-contributory
 
Physical Exam:
Physical Exam:
VS: Temp: 97.0 BP: 96/61 HR: 101 ST RR: 12 O2sat 95-96% AC 
500/12 PEEP 10 FiO2 0.60
GEN: intubated 
HEENT: PERRL, EOMI, anicteric, dry MM, op without lesions, 
superior lip with mild blood oozing under ETT tape
NECK: no supraclavicular or cervical lymphadenopathy 
appreciated, no jvd, no carotid bruits, no thyromegaly or 
thyroid nodules
RESP: Rhonchorus anteriorly
CV: RRR, S1 and S2 wnl, systolic murmur heard greatest LUSB
ABD: nd, +b/s, soft, nt, no masses or hepatosplenomegaly
EXT: trace to 1+ edema b/l feet, warm, good pulses
SKIN: no rashes/no jaundice
NEURO: Somnolent on sedation, but arousable and able to answer 
yes/no to questions, nods appropriately. Able to cooperate with 
strength exam/follow commands.  ___ strength throughout. No 
sensory deficits to light touch appreciated.  

 
Pertinent Results:
EKG: Sinus tachy rate 103, normal access, q II, III, aVF, 1mm ST 
depression II and aVF, 1mm ST depression V5, 1mm ST elevation 
V2.  Isolated biphasic TW ___ aVL.
.
Imaging:
.
___ OSH CXR: Per verbal report showed opacity upper portion 
of RLL. (Need to review CD)
.
___ CXR on presentation to ICU (WET):  Opacity superior 
portion of right lower lobe, left upper lobe opacity and hiatal 
hernia vs. left hemidiaphragm elevation.  Hilar fullness likely 
representing LAD.

.
ADMISSION LABS: ___
.
___ 08:55PM BLOOD Neuts-91* Bands-3 Lymphs-2* Monos-3 Eos-0 
Baso-0 ___ Myelos-1*
___ 08:55PM BLOOD Hypochr-NORMAL Anisocy-1+ 
Poiklo-OCCASIONAL Macrocy-1+ Microcy-NORMAL Polychr-OCCASIONAL 
Schisto-OCCASIONAL
___ 08:55PM BLOOD Plt Smr-HIGH Plt ___
___ 10:55PM BLOOD ___ PTT-23.4 ___
___ 05:58PM BLOOD Glucose-188* UreaN-63* Creat-1.3* Na-136 
K-3.5 Cl-98 HCO3-28 AnGap-14
___ 05:58PM BLOOD estGFR-Using this
___ 05:58PM BLOOD ALT-33 AST-37 LD(LDH)-311* AlkPhos-235* 
TotBili-1.2
___ 05:58PM BLOOD Albumin-2.2* Calcium-7.4* Phos-4.5 Mg-2.5
___ 05:58PM BLOOD Cortsol-59.3*
___ 08:05PM BLOOD Type-ART pO2-62* pCO2-70* pH-7.26* 
calTCO2-33* Base XS-1
___ 09:34PM BLOOD Type-MIX Temp-36.7
___ 08:05PM BLOOD Lactate-1.3 K-3.3*
___ 09:34PM BLOOD Hgb-10.9* calcHCT-33 O2 Sat-74
___ 08:05PM BLOOD freeCa-0.99*
.
.
MICRO DATA
___ 11:42 am SPUTUM     Site: ENDOTRACHEAL
      Source: Endotracheal. 

   LEGIONELLA CULTURE (Preliminary): 
      NO LEGIONELLA ISOLATED. 
      ASPERGILLUS FUMIGATUS. 
         IDENTIFICATION PERFORMED ON CULTURE # ___-___ 
(___). 
.
___ 9:31 pm SPUTUM     Site: ENDOTRACHEAL
      Source: Endotracheal. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      >25 PMNs and <10 epithelial cells/100X field. 
      3+  ___ per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS ___ SHORT CHAINS. 
      2+   ___ per 1000X FIELD):   BUDDING YEAST. 

   RESPIRATORY CULTURE (Final ___: 
      OROPHARYNGEAL FLORA ABSENT. 
      STREPTOCOCCUS PNEUMONIAE.    SPARSE GROWTH. 
         PRESUMPTIVELY PENICILLIN SENSITIVE BY OXACILLIN SCREEN. 


                              SENSITIVITIES: MIC expressed ___ 
MCG/ML
                      
_________________________________________________________
                             STREPTOCOCCUS PNEUMONIAE
                             |   
PENICILLIN------------       S
.
___ 10:33 am URINE     Site: CATHETER

                            **FINAL REPORT ___

   Legionella Urinary Antigen  (Final ___: 
      NEGATIVE FOR LEGIONELLA SEROGROUP 1 ANTIGEN. 
           (Reference Range-Negative). 
      Performed by Immunochromogenic assay. 
      A negative result does not rule out infection due to other 
L.
      pneumophila serogroups or other Legionella species. 
Furthermore, ___
      infected patients the excretion of antigen ___ urine may 
vary. 
.
___ 2:24 pm BRONCHOALVEOLAR LAVAGE

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   RESPIRATORY CULTURE (Final ___:    NO GROWTH, <1000 
CFU/ml. 

   VIRAL CULTURE (Final ___: 
      HERPES SIMPLEX VIRUS TYPE 1. 
         CONFIRMED BY MONOCLONAL FLUORESCENT ANTIBODY.. 
.
___ 3:05 pm SKIN SCRAPINGS

                            **FINAL REPORT ___

   VIRAL CULTURE: R/O HERPES SIMPLEX VIRUS (Final ___: 
      NO VIRUS ISOLATED. 
.
___ 2:40 pm EAR      LEFT EAR. 
      SITE CONFIRMED BY ___ ___ ___ ___. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 
      SMEAR REVIEWED; RESULTS CONFIRMED. 

   RESPIRATORY CULTURE (Final ___: 
      STAPHYLOCOCCUS, COAGULASE NEGATIVE.    SPARSE GROWTH. 
      YEAST.    MODERATE GROWTH. 
.
___ 2:40 pm SWAB     Site: EAR      RIGHT  EAR. 
      SITE CONFIRMED BY ___ ___ ___ ___. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      3+  ___ per 1000X FIELD):   GRAM POSITIVE ROD(S). 
      SMEAR REVIEWED; RESULTS CONFIRMED. 

   RESPIRATORY CULTURE (Final ___: 
      STAPHYLOCOCCUS, COAGULASE NEGATIVE.    MODERATE GROWTH. 
      STAPHYLOCOCCUS, COAGULASE NEGATIVE.    SPARSE GROWTH.  ___ 
TYPE. 
      CORYNEBACTERIUM SPECIES (DIPHTHEROIDS).    MODERATE GROWTH
.
___ 5:29 pm ASPIRATE     Site: SINUS      Source: Sinus. 

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   RESPIRATORY CULTURE (Final ___:    NO GROWTH. 

   POTASSIUM HYDROXIDE PREPARATION (Final ___: 
      Test cancelled by laboratory. 
      PATIENT CREDITED. 
      Inappropriate specimen for Fungal Smear (___). 

   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED. 
RELEVANT IMAGING
Echo ___:
The left atrium is normal ___ size. Left ventricular wall 
thickness, cavity size, and systolic function are normal 
(LVEF>55%). Due to suboptimal technical quality, a focal wall 
motion abnormality cannot be fully excluded. The aortic valve 
leaflets (3) are mildly thickened but aortic stenosis is not 
present. No definite aortic regurgitation is seen. The mitral 
valve leaflets are mildly thickened. There is no mitral valve 
prolapse. There is severe mitral annular calcification. There is 
mild functional mitral stenosis (mean gradient 7 mmHg) due to 
mitral annular calcification. Mild (1+) mitral regurgitation is 
seen. [Due to acoustic shadowing, the severity of mitral 
regurgitation may be significantly UNDERestimated.] The 
tricuspid valve leaflets are mildly thickened. The pulmonary 
artery systolic pressure could not be determined. There is no 
pericardial effusion. 

Compared with the prior study (images reviewed) of ___, the 
findings are similar.  
.
___ CT sinuses
IMPRESSION:
1. Improvement of the mucosal thickening ___ the paranasal 
sinuses as described above. Resolution of the fluid within the 
middle ear cavities bilaterally.

2. Persistent partial opacification of mastoid air cells 
bilaterally.
.
___
chest CT
IMPRESSION:
1) Persisting multifocal consolidation, not significantly 
changed.
2) Interval development of underlying pulmonary edema with 
increasing, now moderate, bilateral pleural effusions.
3) Enlarged mediastinal lymph nodes likely reactive to the 
underlying infectious process and/or CHF.
4) Lobulated, hypodense hepatic dome lesion, likely a cyst.
5) Left adrenal mass with Hounsfield Units between 5 and 15, 
most likely an adenoma.
.
___ orbit, sella, IAC
IMPRESSION:

1. Paranasal sinus opacification as described above.
2. Soft/fluid density within the bilateral mastoid air cells and 
right middle ear cavity without bony erosions or other 
destructive changes. Findings may represent effusions of the 
mastoid air cells and right middle ear cavity, versus 
otomastoiditis.
3. 7-mm well-circumscribed lytic area within the left occipital 
lobe, likely an arachnoid granulation. If there is clinical 
concern or previous history of malignancy, a bone scan could be 
considered for further characterization.
.
___
CT Torso
1. Extensive bilateral pulmonary consolidations that are most 
consistent with pneumonia.

2. Small bilateral pleural effusions.

3. Suboptimal position of the right internal jugular central 
line with its tip ___ the inferior vena cava.

4. Ascites.

5. Cholelithiasis.

6. Left adrenal mass, which cannot be further characterized on 
this study. Further evaluation with MRI may be obtained when 
clinically feasible
.
echo ___
The left atrium is mildly dilated. The estimated right atrial 
pressure is ___. There is mild symmetric left ventricular 
hypertrophy. The left ventricular cavity is unusually small. 
Left ventricular systolic function is hyperdynamic (EF 70-80%). 
There is no ventricular septal defect. Right ventricular chamber 
size and free wall motion are normal. The ascending aorta is 
mildly dilated. The aortic valve leaflets (3) are mildly 
thickened but aortic stenosis is not present. No aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. There is no mitral valve prolapse. There is severe 
mitral annular calcification. There is mild valvular mitral 
stenosis (area 1.5-2.0cm2). Mild (1+) mitral regurgitation is 
seen. [Due to acoustic shadowing, the severity of mitral 
regurgitation may be significantly UNDERestimated.] The 
tricuspid valve leaflets are mildly thickened. Moderate [2+] 
tricuspid regurgitation is seen. There is moderate pulmonary 
artery systolic hypertension. There is no pericardial effusion.  


 
Brief Hospital Course:
Mrs. ___ was admitted to ___ MICU.  ___ h/o tobacco use, 
glaucoma (no past regular medical care) developed fever and body 
aches ___, with progressively worsening confusion since 
then, presented to OSH ED and was found to have WBC 60+, RUL and 
hypotension requiring pressors, intubated and was transferred 
for further management of septic shock ___ pneumococcal RUL PNA. 
 Now with resolved WBC but continued respiratory failure and 
ventilator dependancy; Now s/p Trach/PEG.  Also now with new 
growth of mold out of ___ sputum culture, and staph coag (-) 
off the CVL tip on ___, completed treatment for pneumococcal 
pneumonia, as well as herpes lung infection, still being treated 
for mold ___ sputum-aspergillus infection. 
.
Problems:
.
RESPIRATORY FAILURE:
She presented with a hypercarbic and hypoxic respiratory failure 
with an acute on chronic respiratory acidosis secondary to 
pneumonia which developed into ARDS.  A chest CT showed 
multifocal pneumonia, sputum culture showed penicillin resistant 
 strep pneumonia.  Empirical Vancomycin and Flagyl were 
discontinued, and levofloxacin and zosyn were continued for a 
completed course.

There was also a component of underlying COPD exacerbation for 
which she was on albuterol and atrovent.  Diuresis was initiated 
for a component of volume overload that was felt to be present.  
However she was allowed to self diurese after she became 
euvolemic.  She was also found to have a herpetic pulmonary 
infection (tracheobronchitis).  BAL washings ___ 
HSV-positive herpetic lesions ___ trachea.  Acyclovir was started 
___, ending ___ (2 week course); liver (AST 13. ALT 17), renal 
function were monitored.

She had previously had aspergillus ___ her sputum but negative 
beta-glucan and galactomannan.  Whether this was a pathogen or a 
contaminant was not clear.  She was started voriconazole ___, 
CT sinus and CT chest did not show invasive disease. She should 
continue on this for two weeks and have LFTs monitored weekly.   
She should also have a follow up sputum  for ___ and fungal 
culture ___ ___ weeks after stopping voriconazole.
.
Vent settings at d/c 
ventilator settings:
CPAP 46% FiO2
PEEP 5
Pt averaging tidal volumes of 20
respiratory rate 30
.
She was ___ chronic respiratory failure and did not tolerate 
weaning of vent given need for high PEEP & FIO2.  Thus, she had 
a tracheostomy placed and is now being slowly weaning from vent. 
 Trach: Dead space:tidal volume 78%.  She needs PRN decreases ___ 
 FiO2, PEEP.
.
HYPOTENSION: On admission she had leukocytosis WBC 60, fever, 
tachycardia c/w SIRS and since she had pneumonia and hypotension 
she was ___ spetic shock.  She was requiring Norepinephrine.  ___ 
the presence of a murmur on exam subacute bacterial endocarditis 
was felt to be a possible etiology, thus an echo was done that 
was negative for vegetations, Normal LVEF >55%, +1MR.  Her 
random cortisol was 59, with an appropriate decrease with 
cortisol challenge.  As there were no ischemic changes ___ 
continguous leads cardiogenic etiology was not felt to be 
likely.  On ___ she was weaned successfully off pressor support. 
  She occasionally required small boluses for occasional 
decreases ___ blood pressure and to aid urine output. 
.
ACUTE RENAL FAILURE:  She had no known CRI by history (although 
no consistent medical care for several years).  BUN/creatinine 
ratio suggestive of prerenal etiology, improved to nml range 
after IVFs. Admission BUN=63, Cr=1.3, Discharge BUN=23, Cr=0.5.
.

ILEUS: She had increasing abdominal distention with no BM.  KUB 
done on ___ c/w ileus.  Abd CT demonstrated ascites but no SBO.  
She was on a bowel regimen and TF with appropriate holding for 
residuals were done.  This resolved ___.
.
ALTERED MENTAL STATUS:  She had ARDS, infection, but also heavy 
sedation while intubated.  On ___, decreased scheduled diazepam 
with goal for autotaper, and decreased fentanyl patch to 12.5mg. 
On ___ the patient was found to be awakening, able to 
communicate somewhat with family and staff. Diazepam was 
discontinued ___ and ativan 1mg Q6h:PRN was started.  
.
ANEMIA: She had a slowly decreasing Hct.  She was guiaic 
negative and did not have any gross bleeding.  Likely secondary 
to blood draws, hemolysis labs were negative, should continue to 
monitor. Admit HCT was 32. Discharge HCT was 26, this was stable 
for 3 days prior to discharge. During admission patient was 
transfused 1 unit of packed RBCs w/o complications.
.
RIGHT OTITIS MEDIA: ENT irrigated ear, no evidence of otitis 
externa, likely otitis media s/p perforation or drained fluid 
collection behind cerumen collection.  Recieved 
ciprofloxacin/dexamethasone drops 5 drops TID ___ ear for 10 
days.
Started first full day ___, ended ___.  Now resolved.
.
NUTRITION: PEG was placed at the time of tracheostopy.  Tube 
feed recs. tube feeds-Nutren Pulmonary Full strength; 
Additives:Beneprotein, 10 gm/day
Starting rate: 40 ml/hr; Do not advance rate Goal rate: 40 ml/hr
Residual Check: q4h Hold feeding for residual >= : 100 ml
Other instructions: Please add 150 ml H20 TID to TF
.
GLAUCOMA: She remained on her home medications of timolol and 
travatan
.
ACCESS: ___ line placed ___: NO signs of infection at ___ 
site. 

.
Follow up:
Pt will continue voriconazole until ___ for a total of 2weeks of 
therapy
-Pt needs LFTs drawn on ___.
-sputum culture needed ___ (for fungal culture and ___
-galactomannan and B-glucan ___ 
-Please contact your PCP ___ ___ for a 
follow up appointment within 2 weeks.
-Pt has an appointment with the infectious disease clinic; ___, 11:00am, Dr. ___ on the ___ 
building ___ floor. 

 
Medications on Admission:
`Glaucoma eye gtts
 
Discharge Medications:
1. Heparin (Porcine) 5,000 unit/mL Solution Sig: 5000 (5000)  
Injection Q8H (every 8 hours).  
2. Timolol Maleate 0.5 % Drops Sig: One (1) Drop Ophthalmic 
DAILY (Daily).  
3. Latanoprost 0.005 % Drops Sig: One (1) Drop Ophthalmic HS (at 
bedtime).  
4. Albuterol 90 mcg/Actuation Aerosol Sig: ___ Puffs Inhalation 
Q4H (every 4 hours).  
5. Ipratropium Bromide 17 mcg/Actuation Aerosol Sig: Six (6) 
Puff Inhalation Q4H (every 4 hours).  
6. Outpatient Lab Work
LFTs on ___

7. Outpatient Lab Work
sputum culture ___ (for fungal culture and ___
8. Outpatient Lab Work
galactomannan and B-glucan ___

9. Docusate Sodium 50 mg/5 mL Liquid Sig: One (1)  PO BID (2 
times a day).  
10. Acetaminophen 160 mg/5 mL Solution Sig: One (1)  PO Q6H 
(every 6 hours) as needed for pain or fever.  
11. Miconazole Nitrate 2 % Powder Sig: One (1) Appl Topical TID 
(3 times a day).  
12. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
13. Bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO BID (2 times a day).  
14. Lactulose 10 gram/15 mL Syrup Sig: Thirty (30) ML PO Q8H 
(every 8 hours) as needed.  
15. Chlorhexidine Gluconate 0.12 % Mouthwash Sig: Five (5) ML 
Mucous membrane BID (2 times a day).  
16. Voriconazole 200 mg Tablet Sig: One (1) Tablet PO Q12H 
(every 12 hours) for 8 days: last day ___.  
17. Famotidine 20 mg Tablet Sig: One (1) Tablet PO Q12H (every 
12 hours).  
18. Lorazepam 1 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed: re-assess as necessary with intention to 
taper.  
19. Heparin Lock Flush (Porcine) 100 unit/mL Syringe Sig: One 
(1) ML Intravenous DAILY (Daily) as needed.  
20. Insulin Lispro 100 unit/mL Cartridge Sig: as per scale  
Subcutaneous every six (6) hours: as per scale.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Pneumococcal Pneumonia
Herpetic pulmonary infection
Aspergillus
Acute Respiratory Distress Syndrome
history of tobacco use
glaucoma

 
Discharge Condition:
stable
--------
tube feeds-Nutren Pulmonary Full strength; 
Additives:Beneprotein, 10 gm/day
Starting rate: 40 ml/hr; Do not advance rate Goal rate: 40 ml/hr
Residual Check: q4h Hold feeding for residual >= : 100 ml
Other instructions: Please add 150 ml H20 TID to TF
-------------------
ventilator settings:
CPAP 46% FiO2
PEEP 5
Pt averaging tidal volumes of 20
respiratory rate 30

 
Discharge Instructions:
You were admitted with pneumonia and required intubation for 
respiratory failure.  You also had a herpetic pulmonary 
infection and continued to require ventilation so a tracheostomy 
was done.  You also had a PEG tube placed for feeding.  You were 
treated for your pneumonia and herpetic lung infection with 
antibiotics which you have completed.  You also had mold ___ your 
sputum requiring treatment with an antibiotic called 
voriconazole.  You will continue to take this and complete a two 
week course, during which your liver function tests should be 
checked weekly.  
You are being discharged to a pulmonary rehab facility.  You 
should call your doctor for any fevers, chills, increased sputum 
production, or any other concerning symptoms.
Please follow up as outlined below.

 
Followup Instructions:
___